US06750348B1
To a stirred solution of 8-hydroxy-2-phenyl-5,6,7,8-tetrahydroquinoline (3.0 g, 13 mmol) in CH2Cl2 (25 mL) at 0° C. and triethylamine (4.0 mL, 29 mmol) was added dropwise, methanesulfonyl chloride (1.6 mL, 21 mmol). The reaction mixture was stirred overnight, then saturated aqueous NaHCO3 (20 mL) was added and the resulting mixture was extracted with CHCl3 (3×20 mL), dried (MgSO4) and concentrated in vacuo. The residue was taken up in DMF (20 mL), then sodium azide (1.7 g, 26 mmol) was added and the mixture was stirred at 60° C. for 5 h. At this time, the mixture was cooled to room temperature, diluted with aqueous brine solution (20 mL) and the resulting mixture was extracted with diethyl ether (3×20 mL). The organic fractions were combined then washed with water (20 mL) and brine (20 mL) then dried (MgSO4) and concentrated in vacuo. The residue was dissolved in MeOH/EtOAc 1:1 (20 mL) and placed in a hydrogenation flask which was flushed with nitrogen. Palladium on carbon (10%, 220 mg) was added and the mixture was shaken in a Parr hydrogenator under 45 psi of hydrogen for 8 h. The reaction was filtered through celite and the cake was washed with CHCl3 (50 mL). Evaporation of the combined filtrates afforded 8-amino-2-phenyl-5,6,7,8-tetrahydroquinoline (AMD8787) (2.2 g, 74%) as a pale yellow oil. 1H NMR (CD3OD) δ 1.77-1.87 (m, 2H), 2.00-2.05 (m, 1H), 2.36-2.40 (m, 1H), 2.74-2.85 (m, 2H), 4.30 (dd, 1H, J=9, 5 Hz), 7.31-7.46 (m, 3H), 7.55 (d, 1H, J=8 Hz), 7.69 (d, 1H, J=8 Hz), 8.11 (d, 2H, J=8 Hz); 13C NMR (CD3OD) δ 18.5, 21.1, 24.0, 52.3, 120.7, 127.7, 129.7, 130.1, 132.3, 139.6, 153.5, 155.7. ES-MS m/z 225 (M+H). This intermediate was used without further purification.

reactant | 8-hydroxy-2-phenyl-5,6,7,8-tetrahydroquinoline | 13 mmol, 3.0 g | OC1CCCC=2C=CC(=NC12)C1=CC=CC=C1 | C15H15NO
reactant | triethylamine | 29 mmol, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 21 mmol, 1.6 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
reactant | sodium azide | 26 mmol, 1.7 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 20 mL | [Cl-].[Na+].O
product | 8-amino-2-phenyl-5,6,7,8-tetrahydroquinoline | 2.2 g, 74% | NC1CCCC=2C=CC(=NC12)C1=CC=CC=C1 | C15H16N2
